US03993679
c. 2-Chloro-3,5-dinitrobenzonitrile
A mixture of 31.8 gm. (0.129 mole) of 2-chloro-3,5-dinitrobenzamide and 50 ml. of phosphorous oxychloride is heated under reflux for 1 hour. The excess phosphorous oxychloride is removed by distillation under reduced pressure. To the residue is cautiously added ice water. The light yellow-green solid is removed by filtration and washed with water. There is obtained 28.0 g. (95%) of material melting at 139°-41°.

reactant | 2-chloro-3,5-dinitrobenzamide | 0.129 mole | ClC1=C(C(=O)N)C=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C7H4ClN3O5
reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-3,5-dinitrobenzonitrile | ClC1=C(C#N)C=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C7H2ClN3O4
